Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ history of recurrent nephrolithiasis, BPH, 
diverticulosis,
presented with 1 day of left sided chest discomfort. Per 
patient,
chest discomfort is a ___ which occurs when he twists his
upper torso and resolves when he returns to a neutral position.
Pain is occasionally pinpoint in ___ chest but also occurs
under the left armpit. He associates the pain with sleeping in a
different position than usual. He has not had any chest pain,
pressure, nausa/vomiting, diaphoresis with exertion (walks ___
miles per day). He has a baseline dyspnea with exertion since he
was a kid. The chest discomfort is non-pleuritic without
radiation to the back, no abdominal pain, no pain or swelling in
the legs. Per patient had a normal stress test ___ years ago.
Given his strong family history of cardiac disease and chest
discomfort, he came to ___ for further evaluation. He was 
given
nitro in the ED without change in symptoms.

In the ED initial vitals were:  
98.1 63 144/80 16 95% RA
EKG: sinus rhythm no acute ischemic changes
Labs/studies notable for:  trop negative x2, CBC WNL, Chem 7 WNL
Patient was given: ASA 325, hep gtt, nitro 

Vitals on transfer: 74 ___ 96% RA  
 
On the floor he did not have any chest pain or discomfort at
rest, shortness of breath, or other symptoms. The discomfort was
reproducible with repositioning his torso and with palpation of
the pinpoint locations. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes - None
- Hypertension - None
- Dyslipidemia - None  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
recurrent nephrolithiasis
BPH
diverticulosis
bilateral knee replacements 
 
Social History:
___
Family History:
parents with history of heart disease in ___, brother with MIs
___
 
Physical Exam:
ADMISSON EXAM
=================
VS: 98.3 134 / 87 61 18 95 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVD 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM
=================
Vitals: 97.9 ___
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVD 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
ADMISSION LABS
================
___ 05:21PM   cTropnT-<0.01
___ 02:11PM   ___ PTT-27.6 ___
___ 11:10AM   GLUCOSE-110* UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-99 TOTAL CO2-29 ANION GAP-13
___ 11:10AM   estGFR-Using this
___ 11:10AM   cTropnT-<0.01
___ 11:10AM   CALCIUM-10.1 PHOSPHATE-3.6 MAGNESIUM-1.9
___ 11:10AM   WBC-5.6 RBC-5.43 HGB-16.2 HCT-46.3 MCV-85 
MCH-29.8 MCHC-35.0 RDW-12.8 RDWSD-39.3
___ 11:10AM   NEUTS-60.0 ___ MONOS-9.3 EOS-4.7 
BASOS-0.9 IM ___ AbsNeut-3.35 AbsLymp-1.38 AbsMono-0.52 
AbsEos-0.26 AbsBaso-0.05
___ 11:10AM   PLT COUNT-140*

IMAGING
================
CXR ___:
FINDINGS:
Lungs are well expanded and clear. Cardiomediastinal silhouette 
and hila are
unremarkable. No pneumothorax or pleural effusion.
IMPRESSION: No pneumonia

DISCHARGE LABS
================
___ 07:15AM BLOOD WBC-6.6 RBC-5.41 Hgb-16.0 Hct-46.8 MCV-87 
MCH-29.6 MCHC-34.2 RDW-12.8 RDWSD-39.8 Plt ___
___ 07:15AM BLOOD Glucose-95 UreaN-17 Creat-0.9 Na-144 
K-3.6 Cl-101 HCO3-28 AnGap-15
___ 07:15AM BLOOD CK-MB-2 cTropnT-<0.01

 
Brief Hospital Course:
SUMMARY
==============
___ w/ history of recurrent nephrolithiasis, bilateral knee 
replacements, BPH, diverticulosis, never smoker, no HLD, no DM, 
no HTN, no prior CAD, but with significant family history of 
CAD, presented with 1 day of atypical chest discomfort that was 
un-related to exertion, pin-point, reproducible with palpation, 
and would resolve with position changes. EKGs showed no evidence 
of ischemic changes and troponins were negative x2. He was 
started on hep gtt in the ED and admitted. Heparin gtt was 
discontinued and patient was chest pain free overnight, though 
was found to have a potential arrhythmia on tele which will be 
followed up with outpatient monitoring. He was discharged on 
___.

ACTIVE ISSUES: 
=================================
# Atypical chest pain: chest pain occurred with position 
changes. no ischemic changes on EKG, negative trops x2. Most 
likely related to MSK as patient relates pain to sleeping in 
different position. In terms of risk factors, no HLD, no DM, no 
HTN, no prior CAD, but with significant family history of CAD. 
Treated with hep gtt in the ED which was discontinued once 
admitted. Plan to continue home ASA and to risk stratify as 
outpatient with bicycle stress test (has been ordered but needs 
to be scheduled by patient).

#Arrhythmia: HR suddenly transitioned from ___ to 150 overnight 
for 1 minute while patient was asleep, asymptomatic with stable 
MAPs. Concern for Aflutter versus SVT, though difficult to 
assess on Tele (No EKG as patient quickly returned to normal 
sinus rhythm). CHADS score of 0 so no indication for 
anticoagulation at this time. Patient to follow-up with ___ of 
hearts monitor that will be sent to home.

CHRONIC/STABLE ISSUES: 
=================================
# Recurrent nephrolithiasis: continue home HCTZ and potassium
# BPH
# Diverticulosis
# Bilateral knee replacements 

TRANSITIONAL ISSUES
======================
- No medication changes

- Follow-up with PCP ___: ___ 

- ___ of Hearts Monitor to be delivered to patient's house to 
monitor for arrhythmia given 1 min run of HR 150s, possibly 
Aflutter vs SVT, asymptomatic. Chadsvasc 0, no indication for 
anticoagulation.

- Bicycle stress test ordered. To be scheduled by patient. 
___ 

#CODE STATUS: presumed full code
#CONTACT: health care proxy: ___, husband 
Cell phone: ___ 
Patient contact: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO BID 
2. Potassium Chloride 10 mEq PO TID 
3. Aspirin 81 mg PO DAILY 
4. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO BID  
3.  Potassium Chloride 10 mEq PO TID  
4.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
======================
musculoskeletal chest pain

SECONDARY DIAGNOSES
=======================
Nephrolithiasis
Bilateral Knee Replacements

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ for chest pain.

What happened when you were in the hospital?

- Your EKG's and troponins (a blood test) were normal which was 
reassuring that you did not have a heart attack. You did have an 
abnormal rhythm which lasted one minute overnight. The rhythm 
was likely either atrial flutter or a supraventricular 
tachycardia, and you were asymptomatic at the time, and then 
returned to a normal rhythm. There is nothing you need to do at 
this time, but we do want to further monitor the rhythm to 
characterize what it is.

What you should do when you leave the hospital?

- A bicycle stress test has been ordered for you in the ___ 
system. On ___ please call ___ to schedule the 
stress test. 

___ of Hearts monitor has been ordered for you 
and will be delivered to your house. Please follow the 
instructions delivered with the monitor to assess your heart 
rhythms over 2 weeks.
Please also follow-up with your primary care doctor Dr. ___ 
___ )

It was a pleasure taking care of you.
We wish you the best,
your ___ care team
 
Followup Instructions:
___